US09315446B2
Polidocanol 41.32 g (70.9 mmol) Polidocanol, 21.07 g (178.4 mmol) ethyl lactate, 4.64 g Novozyme 435 and 1.00 g (11.9 mmol) sodium bicarbonate were added to a 100 mL 1-neck round bottom flask. The flask was then fitted to a rotary evaporator with the bath temperature set at 62° C. The pressure was slowly reduced to 15 mmHg under moderate rotation and the reaction mixture was held for 8 hours. Ethyl lactate (5.79 g, 49.0 mmol) was added to replenish the amount removed by distillation and the mixture was held an additional 16 hours at 62° C. and 15 mmHg. The round bottom flask was removed from the evaporator and the mixture was diluted with 20 mL petroleum ether. The solids were separated by vacuum filtration on a Buchner funnel with a #1 Whatman filter paper. The filtered solids were washed with 16 mL petroleum ether and the wash liquors were combined with the mother liquors. The combined filtrates were added to a 100 mL 1-neck round bottom flask and the flask was affixed to a rotary evaporator. The petroleum ether and excess ethyl lactate were distilled @15 mmHg with a bath temperature of 75-80° C. Upon completion of the distillation the pot was cooled and 38.19 g of Polidocanol lactate was obtained as a lightly colored waxy solid.

reactant | Polidocanol | 70.9 mmol, 41.32 g | CCCCCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO | C30H62O10
reactant | ethyl lactate | 178.4 mmol, 21.07 g | C(C(O)C)(=O)OCC | C5H10O3
reactant | sodium bicarbonate | 11.9 mmol, 1.00 g | C([O-])(O)=O.[Na+]
reactant | Ethyl lactate | 49.0 mmol, 5.79 g | C(C(O)C)(=O)OCC | C5H10O3
product | Polidocanol lactate | 38.19 g | CCCCCCCCCCCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO.C(C(O)C)(=O)[O-] | InChI=1S/C30H62O10.C3H6O3/c1-2-3-4-5-6-7-8-9-10-11-13-32-15-17-34-19-21-36-23-25-38-27-29-40-30-28-39-26-24-37-22-20-35-18-16-33-14-12-31;1-2(4)3(5)6/h31H,2-30H2,1H3;2,4H,1H3,(H,5,6)/p-1
